US05354885
reacting L-DOPA with ethanol in the presence of thionyl chloride or an acid catalyst selected from the group consisting of hydrochloric acid and toluene sulfonic acid to yield crude L-DOPA ethyl ester;

reactant | L-DOPA | O=C(O)[C@@H](N)CC1=CC=C(O)C(O)=C1 | C9H11NO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloric acid | Cl | ClH
reactant | toluene sulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | L-DOPA ethyl ester | CCOC(=O)[C@H](CC1=CC(=C(C=C1)O)O)N | C11H15NO4
